US07642373B2
Methyl 11-(4-iodophenoxy)undecanoate (10 g, 23.9 mmmol), in methanol (100 ml) was treated with sodium hydroxide (2.4 g, 60 mmol). The stirred reaction was heated at 40 C for 60 h. The reaction contained a heavy white precipitate at the end of the reaction. The reaction was then cooled to room temperature and concentrated in vacuo. The resulting solid was then treated with 1N hydrochloric acid (250 ml) and ethyl acetate (250 ml) and stirred vigorously until the solid had dissolved. The organic phase was separated dried over sodium sulfate and concentrated in vacuo to give 11-(4-iodophenoxy)-undecanoic acid (9.55 g, 23.6 mmol, 98%) δH (CDCl3)1.29-1.78 (16H, m, 3,4,5,6,7,8,9,10-CH2), 2.35 (2H, t, 2-CH2), 3.90 (2H, t, 11-CH2), 6.66 (2H, dd, 2,6-ArH), 7.53 (2H, dd, 3,5,-ArH), δc(CDCl3) 24.61, 25.92, 28.98, 29.08, 29.16, 29.27, 29.41, 34.02, 68.08, 82.37, 116.90, 138.11, 158.97, and 180.18.

reactant | Methyl 11-(4-iodophenoxy)undecanoate | 10 g | IC1=CC=C(OCCCCCCCCCCC(=O)OC)C=C1 | C18H27IO3
reactant | sodium hydroxide | 60 mmol, 2.4 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 11-(4-iodophenoxy)-undecanoic acid | 23.6 mmol, 9.55 g, 98% | IC1=CC=C(OCCCCCCCCCCC(=O)O)C=C1 | C17H25IO3
